US06133449
A solution of (R)-N-(2-pyridyl)-2-aminopropanol (20.0 g, 0.13 moles) and N,N-diisopropylethylamine (33.6 g, 0.13 moles) in dichloromethane (500 ml) was cooled to 5° C. Then thionyl chloride (15.5 g, 0.13 moles) in dichloromethane (100 ml) was added slowly whilst the temperature was kept below 10° C. The mixture was stirred for 0.5 h. and ice cold water (500 ml) was added. The organic phase was separated and washed with water (5×500 ml). The aqueous phase was back-extracted with dichloromethane (2×500 ml), the organic phases were combined, dried (MgSO4) and evaporated in vacuo to give a brown oil. This was purified on a silica column, eluting with diethyl ether to give (R)-4-methyl-3-(2-pyridyl)-[1,2,3]oxathiazolidine 2-oxide (15.4 g) as a clear oil.

reactant | (R)-N-(2-pyridyl)-2-aminopropanol | 0.13 moles, 20.0 g | N1=C(C=CC=C1)N[C@@H](CO)C | C8H12N2O
reactant | N,N-diisopropylethylamine | 0.13 moles, 33.6 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thionyl chloride | 0.13 moles, 15.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (R)-4-methyl-3-(2-pyridyl)-[1,2,3]oxathiazolidine 2-oxide | 15.4 g | CC1N([S@@](OC1)=O)C1=NC=CC=C1 | C8H10N2O2S
